US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (50 mg, 0.120 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (51 mg, 0.180 mmol) to afford the desired product (22 mg, 37%) as a yellow-green solid: 1H NMR (300 MHz, CD3OD) δ 9.18 (s, 1H), 8.36 (s, 1H), 8.09 (d, J=10.4 Hz, 1H), 7.94 (d, J=8.7 Hz, 1H), 7.33 (d, J=2.0 Hz, 1H), 7.25 (d, J=2.0 Hz, 1H), 4.24 (s, 1H), 3.99 (s, 3H), 3.35 (s, 1H), 2.86 (s, 7H), 2.46 (s, 2H), 2.21 (s, 2H), 1.73 (d, J=10.4 Hz, 4H), 1.28-1.06 (m, 4H); ESI MS m/z [C28H32ClN3O3+H]+; HPLC 97.5% (AUC), tR=10.92 min.

reactant | {6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.120 mmol, 50 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C)C | C21H26BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.180 mmol, 51 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 22 mg, 37% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C)C | C28H32ClN3O3
